US06211199B1
51.1 Synthesis of 1-(2,4,5-trimethoxybenzoyl)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine
Combine 3-phenyl-3-(2-hydroxyethyl)pyrrolidine (1.8 mmol) and sodium carbonate (0.76 g, 7.2 mmol) in ethyl acetate/water (10 mL/10 mL). With stirring, add a solution of 2,4,5-trimethoxybenzoyl chloride (1.1 g, 1.8 mmol) in ethyl acetate (1 mL). After 18 hours, separate the layers and extract the aqueous layer twice with ethyl acetate. Combine the organic layers, dry over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 9/1 ethyl acetate/ethanol to give the title compound.

reactant | 3-phenyl-3-(2-hydroxyethyl)pyrrolidine | 1.8 mmol | C1(=CC=CC=C1)C1(CNCC1)CCO | C12H17NO
reactant | sodium carbonate | 7.2 mmol, 0.76 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2,4,5-trimethoxybenzoyl chloride | 1.8 mmol, 1.1 g | COC1=C(C(=O)Cl)C=C(C(=C1)OC)OC | C10H11ClO4
reactant | ethyl acetate ethanol | C(C)(=O)OCC.C(C)O
solvent | ethyl acetate water | 10 mL | C(C)(=O)OCC.O
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
product | 1-(2,4,5-trimethoxybenzoyl)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine | COC1=C(C(=O)N2CC(CC2)(CCO)C2=CC=CC=C2)C=C(C(=C1)OC)OC | C22H27NO5
